US05322638
A solution of 28.6 g of [trans-4-(1E-pentenyl)cyclohexyl]malonic acid in 150 ml of absolute diethyl ether is added dropwise in an inert gas atmosphere within 1 hr. to a suspension of 8.6 g of lithium aluminium hydride in 250 ml of absolute diethyl ether in such a manner that the mixture does not boil too strongly. The mixture is heated to boiling for a further 4 hours and then there are cautiously added dropwise thereto 15 ml of ice-cold water and thereafter 250 ml of 25 percent (v/v) sulphuric acid until the aqueous phase thickens to a grey sludge. The ether phase is decanted and the residue is extracted with four 200 ml portions of diethyl ether. The combined ether phase is washed once with 25 ml of 25 percent sulphuric acid, with two 25 ml portions of saturated sodium hydrogen carbonate solution and with two 25 ml portions of saturated sodium chloride solution, then dried over sodium sulphate and concentrated. Fractional distillation of the residue in a high vacuum gives pure 2-[trans-4-(1E-pentenyl)cyclohexyl]-1,3-propanediol.

reactant | [trans-4-(1E-pentenyl)cyclohexyl]malonic acid | 28.6 g | C(=C\CCC)/[C@@H]1CC[C@H](CC1)C(C(=O)O)C(=O)O | C14H22O4
reactant | lithium aluminium hydride | 8.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 2-[trans-4-(1E-pentenyl)cyclohexyl]-1,3-propanediol | C(=C\CCC)/[C@@H]1CC[C@H](CC1)C(CO)CO | C14H26O2
